US09102621B2
(3-Isopropylimidazo[1,5-a]pyridin-6-yl)methanol
To an ice-cold solution of methyl 3-isopropylimidazo[1,5-a]pyridine-6-carboxylate (Preparation 27, 234 mg, 1.07 mmol) in THF (4 mL) was added lithium aluminium hydride solution in THF (2 M, 61 mg, 804 μL, 1.61 mmol). The mixture was allowed to warm to room temperature. After 3 hours the reaction was cooled again in an ice bath and quenched with a saturated solution of sodium sulfate (1 mL). The mixture was stirred for 30 minutes and then filtered through Celite. The filtrate was evaporated to low volume and the aqueous residue extracted with DCM (3×5 mL). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and evaporated. The resulting residue was purified by silica gel chromatography eluting with 10 to 100% EtOAc in pentane to yield the title compound as a yellow gum (120 mg, 59%).

reactant | methyl 3-isopropylimidazo[1,5-a]pyridine-6-carboxylate | 1.07 mmol, 234 mg | C(C)(C)C1=NC=C2N1C=C(C=C2)C(=O)OC | C12H14N2O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1.61 mmol, 2 M, 804 μL, 61 mg | C1CCOC1 | C4H8O
product | (3-Isopropylimidazo[1,5-a]pyridin-6-yl)methanol | 120 mg, 59% | C(C)(C)C1=NC=C2N1C=C(C=C2)CO | C11H14N2O
